US07683079B2
Step D]: rac-4-tert-Butoxycarbonylamino-1-(3,4-dimethoxy-phenyl)-piperidine-3-carboxylic acid
To a solution of rac-4-tert-butoxycarbonylamino-1-(3,4-dimethoxy-phenyl)-piperidine-3-carboxylic acid ethyl ester (170 mg) in 2 ml THF, were added 1 ml NaOH 1M and lithium hydroxide (100 mg). The suspension was stirred 22 h at RT., diluted with water and extracted twice with tert-butylmethylether. The aqueous layer was acidified to pH 4, saturated with NaCl and then the product was extracted with 3 portions of AcOEt. The organic layers were dried over MgSO4, filtered, evaporated and chromatographed (silica gel, AcOEt) to provide the title compound (38 mg, 55%).

reactant | rac-4-tert-butoxycarbonylamino-1-(3,4-dimethoxy-phenyl)-piperidine-3-carboxylic acid ethyl ester | 170 mg | C(C)OC(=O)C1CN(CCC1NC(=O)OC(C)(C)C)C1=CC(=C(C=C1)OC)OC | C21H32N2O6
reactant | NaOH | 1M, 1 ml | [OH-].[Na+]
reactant | lithium hydroxide | 100 mg | [OH-].[Li+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | rac-4-tert-Butoxycarbonylamino-1-(3,4-dimethoxy-phenyl)-piperidine-3-carboxylic acid | 38 mg, 55% | C(C)(C)(C)OC(=O)NC1C(CN(CC1)C1=CC(=C(C=C1)OC)OC)C(=O)O | C19H28N2O6
